US06333349B1
A solution of 1.0 g (3.9 mmol) of 5-ethylsulfonylamino-2,3,4,5-tetrahydro-1-benzoxepine in 15 ml of THF were added dropwise under nitrogen to a suspension of 0.16 g (5.4 mmol) of 80 percent sodium hydride in 10 ml of THF. After stirring at RT for 3 h, 1.6 g (11 mmol) of methyl iodide were added dropwise and the mixture was additionally stirred overnight at RT. After distilling off the solvent, the residue was treated with water and extracted with EA. The organic phase was concentrated in vacuo after drying over sodium sulfate. 1.0 g of 5-(N-ethylsulfonyl-N-methylamino)-2,3,4,5-tetrahydro-1-benzoxepine was obtained, m.p. 122-124° C.

reactant | 5-ethylsulfonylamino-2,3,4,5-tetrahydro-1-benzoxepine | 3.9 mmol, 1.0 g | C(C)S(=O)(=O)NC1CCCOC2=C1C=CC=C2 | C12H17NO3S
reactant | sodium hydride | 5.4 mmol, 0.16 g | [H-].[Na+]
reactant | methyl iodide | 11 mmol, 1.6 g | CI | CH3I
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(N-ethylsulfonyl-N-methylamino)-2,3,4,5-tetrahydro-1-benzoxepine | 1.0 g | C(C)S(=O)(=O)N(C)C1CCCOC2=C1C=CC=C2 | C13H19NO3S
